US09216999B2
4-[(tert-Butyldimethylsilyl)oxy]-N-methoxy-N-methylcyclohexanecarboxamide
4-Hydroxy-N-methoxy-N-methylcyclohexanecarboxamide (7.34 g, 39.2 mmol) in N,N-dimethylformamide (200 mL) was stirred with imidazole (4.80 g, 70.6 mmol) and tert-butylchlorodimethylsilane (7.70 g, 51.0 mmol) at room temperature for one day. After addition of water, the reaction mixture was extracted with ethyl acetate, and the organic layer was washed with saturated aqueous sodium chloride, dried over anhydrous sodium sulfate and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (hexane/ethyl acetate=25/1→4/1 (v/v)) to give the title compound as a colorless oil (8.68 g, yield 73%).

reactant | 4-Hydroxy-N-methoxy-N-methylcyclohexanecarboxamide | 39.2 mmol, 7.34 g | OC1CCC(CC1)C(=O)N(C)OC | C9H17NO3
reactant | imidazole | 70.6 mmol, 4.80 g | N1C=NC=C1 | C3H4N2
reactant | tert-butylchlorodimethylsilane | 51.0 mmol, 7.70 g | C(C)(C)(C)[Si](C)(C)Cl | C6H15ClSi
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 200 mL | CN(C=O)C | C3H7NO
product | 4-[(tert-Butyldimethylsilyl)oxy]-N-methoxy-N-methylcyclohexanecarboxamide | 8.68 g, yield 73% | [Si](C)(C)(C(C)(C)C)OC1CCC(CC1)C(=O)N(C)OC | C15H31NO3Si
